US05187279
To a solution of the alcohol produced in Example VIII in dry CH2Cl2 at 0 degree C. there were added triethylamine, p-toluenesulfonyl chloride and N,N-dimethyl-4-aminopyridine (catalytic amount). The mixture was stirred overnight at room temperature, and then diluted with ethyl acetate. The reaction mixture was washed with H2O, saturated aqueous NaHCO3 and brine solution, dried over Na2SO4, and concentrated in vacuo to a yellow oil. Purification by SiO2 column chromatography yielded the p-toluenesulfonate.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethyl-4-aminopyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
